US04771042
17α,21-Dihydroxy-6α-methyl-pregn-1,4,9(11)-triene-3,20-dione
A 13.58 g sample of 21-acetoxy-17α-hydroxy-6α-methylpregna-1,4,9-(11)-triene-3,20-dione in methanol (850 ml) was hydrolyzed with 10% potassium carbonate (34 ml). The reaction mixture was acidified, diluted with water and concentrated to give a gummy precipitate which was dissolved in ethyl acetate. The extract was washed with water and brine, then dried over sodium sulfate and evaporated. Crystallization of the residue from acetone-hexane give the title compound, m.p. 204°-206° C.; one spot by TLC (10% CH3OH--CHCl3).

reactant | 21-acetoxy-17α-hydroxy-6α-methylpregna-1,4,9-(11)-triene-3,20-dione | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)C3=CC[C@]12C)=O)C)O)=O | C24H30O5
reactant | potassium carbonate | 34 ml | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 850 ml | CO | CH4O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 17α,21-Dihydroxy-6α-methyl-pregn-1,4,9(11)-triene-3,20-dione | O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)C3=CC[C@]12C)=O)C | C22H28O4
